US04200641
To a stirred mixture of 13.2 parts of 2-methyl-1H-benzimidazole, 3 parts of N,N,N-triethylbenzenemethanaminium chloride and 225 parts of a sodium hydroxide solution 60% are added 25 parts of 1,4-dichlorobutane. The whole is heated to about 100° C. and stirring is continued for one hour at this temperature. The reaction mixture is cooled and poured onto ice-water. The product is extracted with methylbenzene. The extract is dried, filtered and evaporated. The residue is purified by column-chromatography over silica gel using a mixture of trichloromethane and methanol (90:10) as eluent. The pure fractions are collected and the eluent is evaporated, yielding 1-(4-chlorobutyl)-2-methyl-1H-benzimidazole as a residue.

reactant | 2-methyl-1H-benzimidazole | CC1=NC2=C(N1)C=CC=C2 | C8H8N2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | 1,4-dichlorobutane | ClCCCCCl | C4H8Cl2
catalyst | N,N,N-triethylbenzenemethanaminium chloride | [Cl-].C(C)[N+](CC1=CC=CC=C1)(CC)CC
product | 1-(4-chlorobutyl)-2-methyl-1H-benzimidazole | ClCCCCN1C(=NC2=C1C=CC=C2)C | C12H15ClN2
